US06927221B2
2-(3-mesityl-2,5-dimethyl-8-propyl-6,7,8,9-tetrahydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-9-yl)ethyl methyl ether
7-Chloro-6-(3-chlorohexyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidine (170 mg, 0.406 mmol) was dissolved in 2-methoxyethylamine (2 mL), followed by heating under reflux for one hour. Water was added to the reaction mixture, followed by extracting with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated, to give a pale yellow oil. The oil was dissolved in N,N-dimethylformamide (10 mL), and sodium iodide (62 mg, 0.416 mmol) and potassium carbonate (172 mg, 1.25 mmol) were added thereto. The mixture was stirred at 150° C. for two days. After cooling, water was added to the reaction mixture and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and then evaporated. The residue was purified by silica gel column chromatography (5-10% ethyl acetate/hexane), to give the title compound (60 mg, 0.143 mmol) as a pale yellow oil.

reactant | 7-Chloro-6-(3-chlorohexyl)-3-mesityl-2,5-dimethylpyrazolo[1,5-a]pyrimidine | 0.406 mmol, 170 mg | ClC1=C(C(=NC=2N1N=C(C2C2=C(C=C(C=C2C)C)C)C)C)CCC(CCC)Cl | C23H29Cl2N3
reactant | Water | O | H2O
reactant | sodium iodide | 0.416 mmol, 62 mg | [I-].[Na+]
reactant | potassium carbonate | 1.25 mmol, 172 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethylamine | 2 mL | COCCN | C3H9NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(3-mesityl-2,5-dimethyl-8-propyl-6,7,8,9-tetrahydropyrazolo[1,5-a]pyrido[3,2-e]pyrimidin-9-yl)ethyl methyl ether | 0.143 mmol, 60 mg | COCCN1C(CCC=2C(=NC=3N(C21)N=C(C3C3=C(C=C(C=C3C)C)C)C)C)CCC | C26H36N4O
